US08877801B2
To a 30 mL screw cap vial, (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylohydrazide (38 mg, 0.085 mmol) was dissolved in THF (2 mL). The vial was charged with 1,1′-carbonyldiimidazole (16.49 mg, 0.102 mmol) and the reaction was stirred at room temperature for 1 h. The reaction mixture was acidified with 6 N HCl which caused a precipitate to form. The mixture was diluted with DCM to dissolve the precipitate. The organic phase was collected (phase separator) and concentrated to afford (E)-5-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-1,3,4-oxadiazol-2(3H)-one (31 mg, 0.065 mmol, 77% yield) as an off white solid which was used without further purification. LC/MS (m/z, M-H): 473.0

reactant | (E)-3-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)phenyl)acrylohydrazide | 0.085 mmol, 38 mg | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(C=C2)/C=C/C(=O)NN)C | C25H21FN2O3S
reactant | 1,1′-carbonyldiimidazole | 0.102 mmol, 16.49 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-5-(4-((2-(4-fluoro-2-methylphenyl)-6-methoxybenzo[b]thiophen-3-yl)oxy)styryl)-1,3,4-oxadiazol-2(3H)-one | 0.065 mmol, 31 mg, 77% yield | FC1=CC(=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)OC2=CC=C(/C=C/C1=NNC(O1)=O)C=C2)C | C26H19FN2O4S
